US07691889B2
Preparation of (S)-N [[3-(3-fluoro-4-morpholinylphenyl)-2-oxo-5-oxazolidinyl]methyl]-4-oxo-4-(4-thiomethyl)phenylbutanamide
(S)-N-[3-(3-fluoro-4-morpholinylphenyl)-2-oxo-5-oxazolidinyl]methyl amine (0.200 gm, 0.00068 moles) was taken up in 1:1 THF-water mixture (20 ml). To this was added 4-(4-methlythiophenyl)-4-oxobutanoic acid (0.152 g, 0.00068 moles and HOBt (0.091 gm, 0.00068 moles) and the resulting mixture was cooled to 0° C., and then 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.142 g, 0.00074 moles) was added. The resulting mixture was allowed to warm to room temperature and then stirred for 24 hr. The reaction mixture was concentrated, 15 ml of saturated aqueous sodium bicarbonate was added to, stirred for 15 min and then extracted with ethyl acetate. The ethyl acetate layer was separated and evaporated off. The residue was chromatographed over silica gel (100-200 mesh, 20 g). The column was eluted with mixture of ethyl acetate:hexane, and finally with ethyl acetate. The combined fractions were concentrated to give the title compound (0.270 gm, 79%) as a white solid.

reactant | (S)-N-[3-(3-fluoro-4-morpholinylphenyl)-2-oxo-5-oxazolidinyl]methyl amine | 0.00068 moles, 0.200 gm | FC=1C=C(C=CC1N1CCOCC1)N1C(O[C@H](C1)CN)=O | C14H18FN3O3
reactant | 4-(4-methlythiophenyl)-4-oxobutanoic acid | CSC1=CC=C(C=C1)C(CCC(=O)O)=O | C11H12O3S
reactant | HOBt | 0.00068 moles, 0.091 gm | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.00074 moles, 0.142 g | Cl.CN(CCCN=C=NCC)C
solvent | THF water | 20 ml | C1CCOC1.O
product | (S)-N [[3-(3-fluoro-4-morpholinylphenyl)-2-oxo-5-oxazolidinyl]methyl]-4-oxo-4-(4-thiomethyl)phenylbutanamide | 0.270 gm, 79% | CSC1=CC=C(C=C1)C(=O)CCC(=O)NC[C@H]2CN(C(=O)O2)C3=CC(=C(C=C3)N4CCOCC4)F | C25H28FN3O5S
